US07312215B2
2-(5-Chloro-3,6-dimethoxy-pyridazin-4-yl)-4-methyl-6-morpholin-4-yl-1H-benzimidazole:
To a stirred solution of 2-methyl-4-morpholin-4-yl-6-nitro-phenylamine (0.252 g, 1.06 mmol) in methanol (15 mL) was added 10% palladium on carbon (25 mg) and the suspension flushed well with nitrogen, followed by hydrogen. The resulting suspension was stirred 8 hours at room temperature under an atmosphere of hydrogen (ca. 1 atm). The resulting suspension was filtered under nitrogen through a pad of Celite and washed with methanol (25 mL). This solution was cooled down to 0° C., the 5-chloro-3,6-dimethoxy-pyridazine-4-carbaldehyde (0.225 g, 1.12 mmol) in methanol (10 mL) was added and the reaction mixture was stirred exposed to air at 23° C. for 18 hours. MeOH was evaporated in vacuo and the crude material was purified by preparative HPLC (see method below) to give the title compound as a yellow solid. (0.265 g, 64%) HPLC: 99% (220 nm), LCMS (+ESI, M+H+) m/z 390, IR (KBr, cm−1) 3421, 2956, 2852, 1625, 1470, 1362; 1H NMR (400 MHz, CDCl3) δ 9.99 (s, 1H), 7.17 (s, 0.3H) 6.88 (s, 0.3H), 6.80 (s, 0.7H), 6.74 (s, 0.7H), 4.14 (s, 0.9H), 4.13 (s, 0.9H), 4.12 (s, 2.2H), 4.11 (s,2.2H), 3.83 (m, 4H), 3.13 (m, 4H), 2.62 (s, 2.2H), 2.48 (s, 0.9H). Procedure for the Preparation of 2-(4-chloro-2,6-dimethoxy-pyrimidin-5-yl)-4-methyl-6-morpholin-4-yl-1H-benzimidazole

reactant | 2-methyl-4-morpholin-4-yl-6-nitro-phenylamine | 1.06 mmol, 0.252 g | CC1=C(C(=CC(=C1)N1CCOCC1)[N+](=O)[O-])N | C11H15N3O3
reactant | 5-chloro-3,6-dimethoxy-pyridazine-4-carbaldehyde | 1.12 mmol, 0.225 g | ClC=1C(=C(N=NC1OC)OC)C=O | C7H7ClN2O3
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 2-(5-Chloro-3,6-dimethoxy-pyridazin-4-yl)-4-methyl-6-morpholin-4-yl-1H-benzimidazole | ClC=1C(=C(N=NC1OC)OC)C1=NC2=C(N1)C=C(C=C2C)N2CCOCC2 | C18H20ClN5O3
